US05856578
In a stirred autoclave, 0.5 g of a catalyst prepared according to Example H1 and containing 0.182 g of Pb(OAc)2 3H2O (corresponding to 2% Pb), and 50 mg (0.5mol %) of FeCl2 4H2O are added to a solution of 10.4 g of propargyl 3-nitrobenzoate in 100 ml of methyl ethyl ketone. The mixture is then hydrogenated for 14 hours at a temperature of 140° C. and at a hydrogen pressure of 20 bar. The catalyst is filtered off, the solvent is distilled off and the remaining mixture is purified by column chromatography to give 5.8 g of propargyl 3-aminobenzoate. The content of allyl 3-aminobenzoate according to 1H--NMR is 18%.

reactant | propargyl 3-nitrobenzoate | 10.4 g | [N+](=O)([O-])C=1C=C(C(=O)OCC#C)C=CC1 | C10H7NO4
reactant | hydrogen | [H][H] | H2
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | propargyl 3-aminobenzoate | 5.8 g | NC=1C=C(C(=O)OCC#C)C=CC1 | C10H9NO2
